US07612114B2
Synthesized from {4-{ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]carbamoyl}phenoxy}acetic acid and heptamethyleneimine according to an analogous synthetic method to Example 378, 4-(2-azocan-1-yl-2-oxoethoxy)-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide (262 mg) was used according to an analogous synthetic method to Example 337 to provide [4-(2-azocan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (226 mg). Synthesized from this compound (218 mg) according to an analogous synthetic method to Example 111, the title compound (168 mg) was obtained.

reactant | {4-{ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]carbamoyl}phenoxy}acetic acid | C(C)N(C(=O)C1=CC=C(OCC(=O)O)C=C1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C29H31NO6
reactant | 4-(2-azocan-1-yl-2-oxoethoxy)-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide | 262 mg | N1(CCCCCCC1)C(COC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)CC)C=C1)=O | C36H44N2O5
product | [4-(2-azocan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 226 mg | N1(CCCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)CC)C=C1 | C36H48N2O3
